US04940710
1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(5-methyl-2-furanyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A mixture of 4.98 g of 2-(5-methyl-2-furanyl)piperazine and 2.69 g of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 10 ml of pyridine was refluxed for 48 hours and then evaporated. The residue was chromatographed on silica gel eluting with chloroform:methanol:water (9.5:0.5:0.02), giving 1.1 g of the desired product, mp 186°-188° C.

reactant | 2-(5-methyl-2-furanyl)piperazine | 4.98 g | CC1=CC=C(O1)C1NCCNC1 | C9H14N2O
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.69 g | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(5-methyl-2-furanyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 1.1 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C=1OC(=CC1)C)F)=O)C(=O)O | C21H22FN3O4
